US08633322B2
2-(5-(Biphenyl-3-yl)pent-4-ynyl)isoindoline-1,3-dione (0.11 g, 0.30 mmol) and hydrazine monohydrate (0.030 mL, 0.60 mmol) were taken up into ethanol (3 mL) and stirred at 80° C. for 2.5 hours. The resulting mixture was filtered and the solvent removed in vacuo to yield 5-(biphenyl-3-yl)pent-4-yn-1-amine, which was used in the next step without further purification. MH+ 236.2

reactant | 2-(5-(Biphenyl-3-yl)pent-4-ynyl)isoindoline-1,3-dione | 0.30 mmol, 0.11 g | C1(=CC(=CC=C1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C25H19NO2
reactant | hydrazine monohydrate | 0.60 mmol, 0.030 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-(biphenyl-3-yl)pent-4-yn-1-amine | C1(=CC(=CC=C1)C#CCCCN)C1=CC=CC=C1 | C17H17N
